* Parameterised three layer DIAC model
* for LTspice to match cuve of BR100/03
* without dicontinuities.
* Hand-crufted by Ian.M 22/08/2018
*
.subckt BR100 T1 T2 params: Vbr=30.5V, Ibr=30uA, Vfr=10.2V, If=10mA,  Rs=1, Cp=1nF
*Precalculate consts.
.param K1={1.0141*Vbr}, K2={2.1481/Ibr}, K3={Vfr/Vbr}, K4={-7.0/If}, K5=(Vbr-Vfr)/Vbr
Rdiac N001 N002 {Rs}
Vdiac T1 N001 0 ; ammeter
Cdiac N001 T2 {Cp}
B1 N002 T2 v={K1}*tanh({K2}*I(Vdiac))*({K3}*exp({K4}*abs(I(Vdiac)))+{K5})
.ends BR100