.SUBCKT TIC106M   1 2 3       ;SCR TIC106M A G K - 600V 4A
QP  6 4 1  QPOUT
QN  4 6 5  QNOUT
RF  6 4    133MEG
RR  1 4    88.9MEG
RGK 6 5    1.12K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    DZF
DR  1 4    DZR
DGK 6 5    DZGK
.MODEL DZF   D (IS=1.6F IBV=900N BV=600 RS=20MEG)
.MODEL DZR   D (IS=1.6F IBV=900N BV=800)
.MODEL DZGK  D (IS=1.6F IBV=900N BV=6)
.MODEL QPOUT PNP (IS=1.6P BF=1 CJE=418P)
.MODEL QNOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=418P CJC=83.7P TF=214N TR=68U)
.ENDS TIC106M